US09227975B2
(R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-2,2,2-trifluoroacetamide
A DCM (1 mL) solution of (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-amine (Preparation B; 50 mg, 0.16 mmol) was cooled in an ice bath, followed by addition of 2,2,2-trifluoroacetic anhydride (24 μl, 0.17 mmol) and pyridine (14 μl, 0.17 mmol) drop-wise. The ice bath was removed after reagent addition and the reaction was warmed to ambient temperature. After stirring for one hour, the reaction was concentrated and directly purified by reverse-phase column chromatography, eluting with 5 to 70% acetonitrile/water to yield the final product as an off-white powder (45 mg, 69% yield). MS (apci) m/z=412.3 (M+H).

reactant | (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-amine | 0.16 mmol, 50 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)N | C16H15F2N5
reactant | 2,2,2-trifluoroacetic anhydride | 0.17 mmol, 24 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 0.17 mmol, 14 μl | N1=CC=CC=C1 | C5H5N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-2,2,2-trifluoroacetamide | 45 mg, 69% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)NC(C(F)(F)F)=O | C18H14F5N5O
